US04130562
Starting from thenylmercaptan and N-ethylthiophthalimide there is obtained ethyl-thenyl-disulphide. nD20 = 1.6044. IR (liq.): bands inter alia at 3000, 1450, 1250, 1035, 850, 700 cm-1.

reactant | thenylmercaptan | C1(=CC=CS1)CS | C5H6S2
reactant | N-ethylthiophthalimide | C(C)N1C(C=2C(C1=O)=CC=CC2)=S | C10H9NOS
product | ethyl-thenyl-disulphide | C(C)SSCC1=CC=CS1 | C7H10S3
